US06166219
Thirty milliliters of a 1.6-M-n-butyllithium hexane solution and a solution of 9.21 g of 4-bromo-2-fluorotoluene in 30 ml of tetrahydrofuran were added in this order to 30 ml of tetrahydrofuran which had been cooled to -78° C. in a nitrogen atmosphere, and the mixture was then stirred at -78° C. for 1 hour. A solution containing 6.64 g of zinc chloride which had been dehydrated through heat-melting under reduced pressure in 30 ml of tetrahydrofuran was added thereto at -78° C., and the mixture was stirred at room temperature for 1 hour. The reaction solution was added to a solution of 6.63 g of iodobenzene and 0.52 g of tetrakis(triphenylphosphine)palladium (0) in 30 ml of tetrahydrofuran at room temperature, and the mixed solution was stirred for 24 hours. The reaction solution was diluted with 300 ml of ethyl acetate, and the dilute solution was extracted with the addition of 10% hydrochloric acid. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried, and then concentrated. The residue was purified through silica-gel column chromatography (eluent: hexane) to give 6.00 g of oily 3-fluoro-4-methylbiphenyl.

reactant | 4-bromo-2-fluorotoluene | 9.21 g | BrC1=CC(=C(C=C1)C)F | C7H6BrF
reactant | iodobenzene | 6.63 g | IC1=CC=CC=C1 | C6H5I
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 6.64 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.52 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-fluoro-4-methylbiphenyl | 6.00 g | FC=1C=C(C=CC1C)C1=CC=CC=C1 | C13H11F
